US04064347
2,7-Bis(5-piperidinovaleryl)fluorene
By the procedure of Example 7, 20.2g (0.05 mole) of 2,7-bis(5-chlorovaleryl)fluorene, prepared in Example 2, and 34.0g (0.4mole) of piperidine were reacted. The solid precipitate was recrystallized twice from methanol and chromatographed on alumina. Evaporation of solvent from the fraction collected gave the desired product. M.P. 124°-127° C, λmaxCHCl3 328, Elcm1% 731.

reactant | 2,7-bis(5-chlorovaleryl)fluorene | 0.05 mole, 20.2g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCCl)=O | C23H24Cl2O2
reactant | piperidine | 0.4mole, 34.0g | N1CCCCC1 | C5H11N
product | 2,7-Bis(5-piperidinovaleryl)fluorene | N1(CCCCC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCN1CCCCC1)=O | C33H44N2O2
